US05684012
To a solution of spiro[isobenzofuran-1(3 H),4'-piperidine] (1.9 g)in dichloromethane (40 ml) was added triethylamine (2.3 ml). After cooling to 10° C. a solution of 3-chloropropionic acid chloride (1.7 g) in dichloromethane (15 ml) was added dropwise during 10 min. The mixture was stirred at room temperature for another hour. The 1'-(3-chloropropanoyl)-spiro[isobenzofuran-1(3 H),4'-piperidine] was purified by subjecting the reaction mixture to column chromatography on silica gel (eluted with ethyl acetate/heptane 60:40). Yield 1.8 g as an oil. As a result of elimination of hydrogen chloride 1'-(2-propenoyl)-spiro[isobenzofuran-1(3 H),4'-piperidine] was isolated as a by-product. Yield 0.7 g as an oil. Both the 3-chloropropanoic acid amide and the propenoic acid amide were dissolved in methyl isobutyl ketone (MIBK) (40 ml). To this solution K2CO3 (1.5 g) and spiro[isobenzofuran-1(3 H), 4'-piperidine] (1.8 g) were added. The resulting mixture was refluxed overnight. Inorganic salts were subsequently filtered off and MIBK evaporated in vacuo. The resulting 1,3-bis[spiro[isobenzofuran-1(3 H),4'-piperidin]-1'-yl]propanoic acid amide was purified by column chromatography on silica gel (eluted with ethyl acetate containing 4% of triethylamine). Yield 2.2 g as a viscous oil. To a suspension of LiAlH4 (0.8 g) in dry THF was added all of the above isolated mono-amide (2.2 g) in THF solution (25 ml). The resulting mixture was refluxed for 2 hours. Excess LiAlH4 was destroyed by cautiously adding concentrated aqueous NaOH (1 ml) at 10° C. followed by addition of water (5 ml). Inorganic salts were filtered off and THF was evaporated in vacuo. The remaining oil was dissolved in ethanol (15 ml) and fumaric acid was added (1.1 g). Upon heating to 60° C. the fumaric acid salt of the title compound 2a crystallized. Yield 2.2 g. Mp 232°-233° C. 1H NMR (DMSO-d6) δ1.70 (d,4 H), 1.95 (broad p,2 H), 2.10 (dt,4 H), 2.65 (t,4 H), 2.70-2.80 (m,4 H), 3.15 (broad d,4 H), 5.00 (s, 4 H), 6.55 (s,4 H), 7.20-7.35 (m,8 H).

reactant | spiro[isobenzofuran-1(3 H),4'-piperidine] | 1.9 g | N1CCC2(CC1)OCC1=CC=CC=C12 | C12H15NO
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropionic acid chloride | 1.7 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | hydrogen chloride 1'-(2-propenoyl)-spiro[isobenzofuran-1(3 H),4'-piperidine] | C(C=C)(=O)N1CCC2(CC1)OCC1=CC=CC=C12.Cl | InChI=1S/C15H17NO2.ClH/c1-2-14(17)16-9-7-15(8-10-16)13-6-4-3-5-12(13)11-18-15;/h2-6H,1,7-11H2;1H
